US05112998
In 5 ml of acetone was dissolved 100 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene, followed by addition of one drop of concentrated sulfuric acid, and the mixture was refluxed in an atmosphere of argon gas for 3 hours. The reaction mixture was poured in ice-water and extracted with ether. The extracts were pooled and washed with aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution, followed by concentration under reduced pressure. Finally the concentrate was purified by recrystallization from ether. The procedure yielded 55 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene | 100 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)C | C31H46O8
solvent | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 55 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
